US07262196B2
Condensation of (E)-3-cyclopentyl-2-(6-methylsulfanylpyridin-3-yl)acrylic acid (Preparation 3, 64 mg, 0.24 mmol) with 5-bromothiazol-2-ylamine (218 mg, 1.22 mmol), by the protocol described in EXAMPLE 5, yielded (E)-N-(5-bromothiazol-2-yl)-3-cyclopentyl-2-(6-methylsulfanylpyridin-3-yl)acrylamide: RTA=4.28 min; m/z (ES+)=426.2 [M+H]+. This compound (61 mg, 144 μmol) was oxidised, employing the procedure described in EXAMPLE 35, to give the title compound: RTA=3.91 min; m/z (ES+)=499.2 [M+MeCN+H]+.

reactant | (E)-3-cyclopentyl-2-(6-methylsulfanylpyridin-3-yl)acrylic acid | 0.24 mmol, 64 mg | C1(CCCC1)/C=C(/C(=O)O)\C=1C=NC(=CC1)SC | C14H17NO2S
reactant | 5-bromothiazol-2-ylamine | 1.22 mmol, 218 mg | BrC1=CN=C(S1)N | C3H3BrN2S
product | (E)-N-(5-bromothiazol-2-yl)-3-cyclopentyl-2-(6-methylsulfanylpyridin-3-yl)acrylamide | BrC1=CN=C(S1)NC(\C(=C\C1CCCC1)\C=1C=NC(=CC1)SC)=O | C17H18BrN3OS2
